US08614234B2
Methyl 5-(4-(tert-butoxycarbonyl(3-nitrophenyl)amino)pyridine-2-yl)-1H-pyrrole-3-carboxylate (0.40 g, 0.91 mmol) was taken up in toluene (38 mL) and SiO2 (9.0 g) was added. The mixture stirred at reflux for 20 h. The mixture was cooled to rt and filtered over celite, washing with EtOAc. The filtrate was concentrated to a bright orange color. The solid was taken up in hexanes and filtered. The solid was then washed with CH2Cl2/hexanes to afford methyl 5-(4-((3-nitrophenyl)amino)pyridin-2-yl)-1H-pyrrole-3-carboxylate (0.15 g, 49% yield) as a bright yellow solid.

reactant | Methyl 5-(4-(tert-butoxycarbonyl(3-nitrophenyl)amino)pyridine-2-yl)-1H-pyrrole-3-carboxylate | 0.91 mmol, 0.40 g | C(C)(C)(C)OC(=O)N(C1=CC(=NC=C1)C1=CC(=CN1)C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-] | C22H22N4O6
solvent | toluene | 38 mL | C1(=CC=CC=C1)C | C7H8
product | methyl 5-(4-((3-nitrophenyl)amino)pyridin-2-yl)-1H-pyrrole-3-carboxylate | 0.15 g, 49% yield | [N+](=O)([O-])C=1C=C(C=CC1)NC1=CC(=NC=C1)C1=CC(=CN1)C(=O)OC | C17H14N4O4
